US05356893
4-Bromo-3,N-dimethylbenzamide
4-Bromo-3-methylbenzoic acid (20 g) was added to a suspension of 1,1-carbonyldiimidazole (18.1 g) in dry THF (250 ml) at 5° C. and the resulting suspension stirred for 2.5 h at 5° C. Methylamine (33% w/v, solution in methanol 50 ml) was added dropwise over 5 min and the resultant mixture stirred at 23° for 15 h. The solution was evaporated and the residue treated with aqueous 2M-hydrochloric acid (150 ml). The mixture was extracted with ether (4×150 ml) and the combined, dried organic extracts were evaporated. The residue crystallised from hot ethyl acetate (~50 ml) to give the title compound as white crystals (8.7 g),

reactant | 4-Bromo-3-methylbenzoic acid | 20 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | Methylamine | 50 ml | CN | CH5N
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 4-Bromo-3,N-dimethylbenzamide | 8.7 g | BrC1=C(C=C(C(=O)NC)C=C1)C | C9H10BrNO
